US04025630
5,5-Dimethyl-10-[2-methyl-4-(piperidino)butyryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride
2.0 g. (5.05 mm.) of 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine are combined with 1.12 g. (5.05 mm.) of α-methyl-γ-piperidino butyric acid hydrochloride and 1.08 g. (5.25 mm.) of dicyclohexylcarbodiimide in 110 ml. of methylene chloride and the mixture is stirred at room temperature for 16 hours. After cooling for 4 hours, the by-product of dicyclohexylurea is removed by suction filtration. The mother liquor is evaporated to give a colorless foamy residue which is dissolved in a methylene chloride/cyclohexane mixture and stored for 16 hours in the cold. A small amount of solid is separated by gravity filtration, and the solvents are removed using a rotary evaporator. The residue is dried to give a colorless solid which is dissolved in a mixture of methylene chloride/diethyl ether and converted to the dihydrochloride by the addition of a solution of hydrogen chloride is diethyl ether. The solvents are decanted, and the gummy residue crystallized upon trituration with diethyl ether. The solid is filtered and recrystallized from 20 ml. of methylene chloride/20 ml. diethyl ether to give the desired product.

reactant | 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)O)C2=C1CCN(C2)CC#C)C | C28H32FNO2
reactant | α-methyl-γ-piperidino butyric acid hydrochloride | Cl.CC(C(=O)O)CCN1CCCCC1
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride cyclohexane | C(Cl)Cl.C1CCCCC1
solvent | methylene chloride diethyl ether | C(Cl)Cl.C(C)OCC
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10-[2-methyl-4-(piperidino)butyryloxy]-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)OC(C(CCN2CCCCC2)C)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C38H49FN2O3.ClH/c1-7-18-38(6,28-12-14-30(39)15-13-28)29-24-33(43-36(42)27(3)16-22-40-20-10-9-11-21-40)35-31-26-41(19-8-2)23-17-32(31)37(4,5)44-34(35)25-29;/h2,12-15,24-25,27H,7,9-11,16-23,26H2,1,3-6H3;1H
